US09029359B2
tert-Butyl (3R,5S)-5-methylpiperidin-3-ylcarbamate.
A Parr bottle was charged with tert-butyl 5-methylpyridin-3-ylcarbamate (365 mg, 1.75 mmol) and AcOH (10 mL, 0.17 mol). Nitrogen was bubbled through the mixture for several minutes with stirring before 5% Pt/C (365 mg, 0.027 mol) was added, and the bottle was placed under an atmosphere of hydrogen (60 psi) for 24 h. The mixture was filtered and the solvent concentrated in vacuo to afford the title intermediate as an oil, which was used without further purification.

reactant | tert-butyl 5-methylpyridin-3-ylcarbamate | 1.75 mmol, 365 mg | CC=1C=C(C=NC1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | AcOH | 0.17 mol, 10 mL | CC(=O)O | C2H4O2
catalyst | Pt/C | 0.027 mol, 365 mg | [Pt] | Pt
product | tert-Butyl (3R,5S)-5-methylpiperidin-3-ylcarbamate | C[C@H]1C[C@H](CNC1)NC(OC(C)(C)C)=O | C11H22N2O2
